US07504426B2
C-(5-Chloro-1H-benzoimidazol-2-yl)-C-(4-methyl-piperazin-1-yl)-methyleneamine
To a suspension of 5-chloro-2-trichloromethyl-1H-benzoimidazole (100 mg, 0.37 mmol) in acetonitrile (4 mL) was added N-methylpiperazine (0.04 mL, 0.4 mmol). The mixture was stirred for 10 min then ammonium acetate (29 mg, 0.38 mmol) was added. After 18 h the reaction mixture was diluted with satd aq NaHCO3 (10 mL), and then extracted with dichloromethane (3×10 mL). The combined extracts were dried (Na2SO4) and then concentrated under reduced pressure. The crude product was purified on silica gel (10 g; 0-10% methanol (2 M NH3)/dichloromethane) to afford 23 mg (22%) of the title compound. MS (ESI): mass calculated for C13H16N4O, 277.11; m/z found, 278.2 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.79-7.74 (m, 2H)1 7.45 (dd, J=8.6, 2.0 Hz, 1H), 4.23-4.17 (m, 4H), 3.63-3.58 (m, 4H), 3.01 (s, 3H).

reactant | 5-chloro-2-trichloromethyl-1H-benzoimidazole | 0.37 mmol, 100 mg | ClC1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C8H4Cl4N2
reactant | N-methylpiperazine | 0.4 mmol, 0.04 mL | CN1CCNCC1 | C5H12N2
reactant | ammonium acetate | 0.38 mmol, 29 mg | C(C)(=O)[O-].[NH4+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | C-(5-Chloro-1H-benzoimidazol-2-yl)-C-(4-methyl-piperazin-1-yl)-methyleneamine | 23 mg, 22% | ClC1=CC2=C(NC(=N2)C(N2CCN(CC2)C)=N)C=C1 | C13H16ClN5
